US06541505B1
N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(2,3-dihydroxy-propylamino)-pyrimidin-4-yl]-benzamide.
Using 2,3-dihydroxy-propylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 457 (M+H)+.

reactant | 2,3-dihydroxy-propylamine | OC(CN)CO | C3H9NO2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(2,3-dihydroxy-propylamino)-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCC(CO)O)=O | C25H24N6O3
